US07915270B2
3-(2-(7-Phenylheptanoyl)oxazol-5-yl)benzoic acid
The title compound was prepared from methyl 3-(2-(7-phenylheptanoyl)oxazol-5-yl)benzoate (29 mg, 0.074 mmol) following General Procedure E. Preparative thin layer chromatography (EtOAc) yielded the title compound as a white solid (22 mg, 79%): 1H NMR (THF-d8, 500 MHz) δ 8.55 (s, 1H), 8.16 (d, 1H, J=7.5 Hz), 8.09 (d, 1H, J=8.0 Hz), 7.88 (s, 1H), 7.66 (t, 1H, J=8.0 Hz), 7.32-7.29 (m, 2H), 7.25-7.24 (m, 2H), 7.20-7.18 (m, 1H), 3.15 (t, 2H, J=7.0 Hz), 2.70 (t, 2H, J=7.5 Hz), 1.84-1.81 (m, 2H), 1.77-1.71 (m, 2H), 1.54-1.49 (m, 4H); 13C NMR (THF-d8, 125 MHz) δ 187.2, 166.9, 158.0, 153.4, 142.9, 133.1, 130.9, 129.4, 128.9, 128.5, 128.4, 127.8, 126.4, 125.7, 124.8, 38.9, 36.1, 31.8, 29.4, 29.4, 24.2; MALDI-FTMS m/z 378.1699 (M+H+, C23H24NO4, requires 378.1700).

reactant | methyl 3-(2-(7-phenylheptanoyl)oxazol-5-yl)benzoate | 0.074 mmol, 29 mg | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C=1C=C(C(=O)OC)C=CC1 | C24H25NO4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(2-(7-Phenylheptanoyl)oxazol-5-yl)benzoic acid | 22 mg, 79% | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C=1C=C(C(=O)O)C=CC1 | C23H23NO4
